US04661611
Synthesis of 2-(4-hydroxyphenyl)-1,3-dithiane: (1)
4-Hydroxybenzaldehyde (46 g, 0.377 mol), recrystallized from benzene, and 1,3-propanedithiol (45 ml, 0.449 mol) were added to dry chloroform. The reaction mixture was stirred at 0° C. and HCl gas was bubbled through the solution for 10 minutes. After the exothermic reaction stopped the solution was refluxed for 10 hours. A white precipitate formed. This was filtered off and the chloroform solution was washed with water three times, dried (MgSo4) and evaporated under reduced pressure to yield a light yellow solid. White needles were obtained after recrystallization from chloroform, MP=151°-152° C. The white precipitate was also recrystallized from chloroform to yield white needles that melted at 151°-152° C. IR and NMR confirmed the two compounds to be identical. Total yield after recrystallization: 99%.

reactant | 4-Hydroxybenzaldehyde | 0.377 mol, 46 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1,3-propanedithiol | 0.449 mol, 45 ml | C(CCS)S | C3H8S2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-hydroxyphenyl)-1,3-dithiane | OC1=CC=C(C=C1)C1SCCCS1 | C10H12OS2
